US08871790B2
Compound 118.6. 6-(4-Methoxyphenyl)-3-oxabicyclo[3.1.0]hexane-2,4-dione
A mixture of 3-(4-methoxyphenyl)cyclopropane-1,2-dicarboxylic acid (crude product from the previous step) in Ac2O (20 mL) was heated under reflux for 1 h. Excess Ac2O was removed under reduced pressure. The crude product was used in the next step without further purification.

reactant | 3-(4-methoxyphenyl)cyclopropane-1,2-dicarboxylic acid | COC1=CC=C(C=C1)C1C(C1C(=O)O)C(=O)O | C12H12O5
solvent | Ac2O | 20 mL | CC(=O)OC(=O)C | C4H6O3
product | 6-(4-Methoxyphenyl)-3-oxabicyclo[3.1.0]hexane-2,4-dione | COC1=CC=C(C=C1)C1C2C(OC(C12)=O)=O | C12H10O4
